US07696210B2
6-Methyl-pyrido[2,3-b]pyrazine:
6-Methyl-pyridine-2,3-diamine (1.01 g, 8.2 mmol) was dissolved in MeOH (40 ml) and glyoxal (14 ml of a 40% aqueous glyoxal solution). Allowed to stir 18 h. The MeOH was removed, and the crude was taken up in ethyl acetate. It was washed three times with a 1 N HCl solution. The combined acid washings were washed twice with ethyl acetate. The acidic water was made basic with the addition of solid sodium carbonate, and it was extracted three times with ethyl acetate. The combined ethyl acetate extracts were washed with brine, dried using MgSO4, and concentrated under vacuum to yield the title product (980 mg, 80%) as a brown solid. 1H NMR (DMSO-d6): δ=9.09 (d, 1H,J=1.8 Hz), 8.99 (d, 1H, J=1.8 Hz), 8.47 (d, 1H, J=8.5 Hz), 7.82 (d, 1H, J=8.5 Hz), 2.78 (s, 3H). Calculated mass=145, [M+H]+=146.

reactant | 6-Methyl-pyridine-2,3-diamine | 8.2 mmol, 1.01 g | CC1=CC=C(C(=N1)N)N | C6H9N3
reactant | glyoxal | C(=O)C=O | C2H2O2
solvent | MeOH | 40 ml | CO | CH4O
product | 6-Methyl-pyrido[2,3-b]pyrazine | 980 mg, 80% | CC=1C=CC=2C(=NC=CN2)N1 | C8H7N3
